Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.65508592737
[H:1][O:2][C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.60217430495
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-0.7459790139
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[H:8].[H:1][O:2],2.6833763051700004
[H:8].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7][O:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10],-4.16744086711
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:3][C:4][H:5],5.688818215
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:4],4.81540182351
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:5],5.12093538346
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.379167906980001
[C:2]#[C:3][C:4][O:5][C:6][O:7][H:8].[H:1]>>[H:1][C:2]#[C:3][C:4][O:5][C:6][O:7][H:8],-4.22498998569
[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.51761313004
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],4.88505770816
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])#[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5],2.53720112415
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-10.6125290126
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],-7.21074800472
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1],8.22961428
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:1][O:2],2.7038832109500004
[H:1][O:2][C:3][C:4]1[O:5][C:6]1([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][C:6]([O:5])([H:7])[H:8],-0.0062925558295299
[C:7]([H:8])[O:9][C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11],-4.31949538202
[H:1][C:4]([O:3][C:2]#[C:10][C:6]([H:7])([H:8])[H:9])=[C:5][H:11]>>[H:1][c:2]1[o:3][c:4][c:5]([C:6]([H:7])([H:8])[H:9])[c:10]1[H:11],-2.4819210808000003
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],1.48987658376
[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.97322622613
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10],4.17418325186
[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],3.97256704636
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9],4.77633832815
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7],2.71285546921
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.68094259894
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14],8.414953278139999
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7]=[C:8]([H:9])[H:10],2.31428567569
